US07244722B2
Step 1. 1-(3-Chloro-2-pyrazinyl)-4-methylpiperazine.*
A mixture of 2,3-dichloropyrazine (5.0 g, 34 mmol), N-methylpiperazine (5.1 g, 51 mmol) and potassium carbonate (7.0 g, 51 mmol) in acetonitrile (100 mL) was stirred at ambient temperature for 2 h. Addition of hexane, followed by filtration and concentration of the filtrate gave 7.3 g of the crude product as an orange liquid. Purification by filtration through silica using heptane/EtOAc (3:1) followed by EtOAc/acetone (1:1) gave 4.1 g (57%) of the title compound as a yellow oil which solidified upon cooling. HPLC purity: 100%. MS m/z 213 (M+H)+. *Reported in WO 00/76984, Example 169, Step 1.

reactant | 2,3-dichloropyrazine | 34 mmol, 5.0 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | N-methylpiperazine | 51 mmol, 5.1 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 51 mmol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-(3-Chloro-2-pyrazinyl)-4-methylpiperazine | 4.1 g, 57% | ClC=1C(=NC=CN1)N1CCN(CC1)C | C9H13ClN4
